US09359339B2
Step C. 7-Bromo-5-(trifluoromethyl)-1-benzothiophene-2-carboxylic acid
A solution of NaOH (4.0 M in water, 5.0 mL, 20 mmol) was added to a solution of methyl 7-bromo-5-(trifluoromethyl)-1-benzothiophene-2-carboxylate (1.00 g, 2.95 mmol) in dioxane (11 mL). The mixture was heated at 70° C. overnight, allowed to cool to room temperature, then concentrated. The resulting light beige solid was partitioned between water (25 mL) and 1:1 hexanes:ethyl acetate (15 mL). The resulting layers were separated. The aqueous layer was adjusted to pH 2 with 2.0 M HCl (aq) then extracted four times with CH2Cl2. The combined CH2Cl2 layers were dried over Na2SO4, filtered, then concentrated. The resulting acid, a light yellow solid, was used directly for the following step. LC1: 3.58 min. Compound does not ionize.

reactant | NaOH | 20 mmol, 4.0 M, 5.0 mL | [OH-].[Na+]
reactant | methyl 7-bromo-5-(trifluoromethyl)-1-benzothiophene-2-carboxylate | 2.95 mmol, 1.00 g | BrC1=CC(=CC=2C=C(SC21)C(=O)OC)C(F)(F)F | C11H6BrF3O2S
solvent | dioxane | 11 mL | O1CCOCC1 | C4H8O2
product | 7-Bromo-5-(trifluoromethyl)-1-benzothiophene-2-carboxylic acid | BrC1=CC(=CC=2C=C(SC21)C(=O)O)C(F)(F)F | C10H4BrF3O2S
